US05665748
A mixture of 4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzaldehyde (2.9 g), sodium pyruvate (3.3 g), sodium carbonate (3.2 g), water (80 ml) and methanol (80 ml) was stirred for 6 hours under reflux. The reaction mixture was concentrated under reflux to about 1/3 of the initial volume. The concentrate was subjected to extraction with ethyl acetate. The aqueous layer was acidified with conc. HCl. Resulting crystalline precipitate was collected by filtration to obtain (E)-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzylidenepyruvic acid (1.6 g, 44%). Recrystallization from chloroform-methanol gave colorless needles, m.p.197°-198° C.

reactant | 4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzaldehyde | 2.9 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=O)C=C1 | C18H15NO3
reactant | sodium pyruvate | 3.3 g | C(C(=O)C)(=O)[O-].[Na+]
reactant | sodium carbonate | 3.2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 80 ml | O | H2O
solvent | methanol | 80 ml | CO | CH4O
product | (E)-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzylidenepyruvic acid | 1.6 g, 44% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(\C=C\C(C(=O)O)=O)C=C1 | C21H17NO5
